US08217028B2
Ethyl (2E)-3-(6-cyano-5-fluoro-1H-indol-3-yl)-2-propenoate (D153)
To a solution of 5-fluoro-3-formyl-1H-indole-6-carbonitrile (D152) (250 mg) in acetonitrile (30 mL) was added ethyl (triphenylphosphoranylidene)acetate (926 mg). The reaction mixture was refluxed at 90° C. for 24 hours. The solvent was then evaporated and the residue was chromatographed on silica gel eluting with EA and PA (3:7-7:3) to generate ethyl (2E)-3-(6-cyano-5-fluoro-1H-indol-3-yl)-2-propenoate (D153) (275 mg). MS (ES): C14H11FN2O2 requires 258.1; found 259.1 (M+H+).

reactant | 5-fluoro-3-formyl-1H-indole-6-carbonitrile | 250 mg | FC=1C=C2C(=CNC2=CC1C#N)C=O | C10H5FN2O
reactant | ethyl (triphenylphosphoranylidene)acetate | 926 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OCC | C22H21O2P
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | Ethyl (2E)-3-(6-cyano-5-fluoro-1H-indol-3-yl)-2-propenoate | C(#N)C1=C(C=C2C(=CNC2=C1)/C=C/C(=O)OCC)F | C14H11FN2O2
